US04381303
1-Methyl-1,4,9,10-tetrahydro-pyrazolo[4,3-e]pyrido[3,2-b][1,4]diazepin-10-one
An amount of 25.0 gm (0.099 mol) of 4-amino-N-(2-chloro-3-pyridinyl)-1-methyl-1H-pyrazole-5-carboxamide was dissolved in 100 ml of sulfolane and, after addition of 5 drops of concentrated sulfuric acid, heated for 1 hour to 120° C. The cold reaction mixture was filtered, and the filtration residue was suspended with 5% aqueous ammonia solution and again filtered. The product obtained was thoroughly washed with water, stirred with methanol, and subjected to cold suction filtration. After drying, 14.6 gm (68.5% of theory) of colorless crystals were obtained (m.p.: 304°-305° C.).

reactant | 4-amino-N-(2-chloro-3-pyridinyl)-1-methyl-1H-pyrazole-5-carboxamide | 0.099 mol, 25.0 gm | NC=1C=NN(C1C(=O)NC=1C(=NC=CC1)Cl)C | C10H10ClN5O
solvent | sulfolane | 100 ml | S1(=O)(=O)CCCC1 | C4H8O2S
catalyst | sulfuric acid | 5 drops | S(O)(O)(=O)=O | H2O4S
product | 1-Methyl-1,4,9,10-tetrahydro-pyrazolo[4,3-e]pyrido[3,2-b][1,4]diazepin-10-one | CN1N=CC=2NC3=C(NC(C21)=O)C=CC=N3 | C10H9N5O
